### PR TITLE
[Merged by Bors] - chore(Probability/Kernel): add fun_prop attributes, use it

### PR DESCRIPTION
**Pull request by RemyDegenne**
I marked measurability lemmas about kernels with `fun_prop` and used that tactic in various places to replace measurability proofs.

Using `fun_prop` instead of manual proofs improved some proofs and allowed removing several now unused typeclass arguments.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Kernel/Defs.lean [hunk 1]
```diff
@@ -224,6 +225,7 @@ theorem ext_fun (h : ∀ a f, Measurable f → ∫⁻ b, f b ∂κ a = ∫⁻ b,
 theorem ext_fun_iff : κ = η ↔ ∀ a f, Measurable f → ∫⁻ b, f b ∂κ a = ∫⁻ b, f b ∂η a :=
   ⟨fun h a f _ => by rw [h], ext_fun⟩
 
+-- could be @[fun_prop] if fun_prop could synthesize the `MeasurableSet s` argument
```
Comment (grunweg) [inline Mathlib/Probability/Kernel/Defs.lean:228]: I'm not sure about these comments: fun_prop doesn't know about measurable sets. Should this rather be a library_note than a comment?

File: Mathlib/Probability/Kernel/Invariance.lean [hunk 2]
```diff
@@ -75,7 +75,7 @@ theorem Invariant.def (hκ : Invariant κ μ) : μ.bind κ = μ :=
 theorem Invariant.comp_const (hκ : Invariant κ μ) : κ ∘ₖ const α μ = const α μ := by
   rw [← const_bind_eq_comp_const κ μ, hκ.def]
 
-theorem Invariant.comp [IsSFiniteKernel κ] (hκ : Invariant κ μ) (hη : Invariant η μ) :
+theorem Invariant.comp (hκ : Invariant κ μ) (hη : Invariant η μ) :
```
Comment (grunweg) [inline Mathlib/Probability/Kernel/Invariance.lean:78]: So this is actually a mild generalisation? Nice!

File: Mathlib/Probability/Kernel/MeasurableLIntegral.lean [hunk 3]
```diff
@@ -73,6 +73,7 @@ theorem measurable_kernel_prod_mk_left_of_finite {t : Set (α × β)} (ht : Meas
       · exact fun i ↦ measurable_prod_mk_left (hf_meas i)
     simpa only [this] using Measurable.ennreal_tsum hf
 
+-- could be @[fun_prop] if fun_prop could synthesize the `MeasurableSet t` argument
```
Comment (grunweg) [inline Mathlib/Probability/Kernel/MeasurableLIntegral.lean:76]: Same comment about this as above (and for the others below).

File: Mathlib/Probability/Kernel/Defs.lean [hunk 4]
```diff
@@ -73,6 +73,7 @@ instance instFunLike : FunLike (Kernel α β) α (Measure β) where
   coe := toFun
   coe_injective' f g h := by cases f; cases g; congr
 
+@[fun_prop]
```
Comment (grunweg) [inline Mathlib/Probability/Kernel/Defs.lean:76]: Put a newline after this lemma?

**Review by grunweg — COMMENTED** [review]
Thanks for doing this! I'll be happy to review further PRs tagging lemmas with fun_prop. (One project idea: inspect lemmas tagged measurability and see if there are any left which could be tagged fun_prop).
I'm not sure about the comments you added: apart from that, looks great to me!
maintainer delegate

**Comment by ocfnash** [comment]
Thanks, very nice!

I agree with @grunweg about dropping the comments but I wouldn't object if you want to keep them.

bors d+

**Comment by RemyDegenne** [comment]
I removed the comments. They should be on my todo list reminding me to look into it, but have no place in the library itself.
Thanks for the review.
bors r+
